US05461161
7. Preparation of 3-Amino-2,4,5-trichloropyridine
Thirty percent aqueous hydrogen peroxide (3.0 g, 26 mmole) was added dropwise with stirring at 15° C. to a solution of 8.0 g (49 mmol) of 3-amino-4,5-dichloropyridine in 450 mL of 37 percent aqueous hydrochloric acid. After 30 min another 2.6 g (23 mmol) of 30 percent aqueous hydrogen peroxide was added and the solution was allowed to slowly warm to room temperature. The resulting mixture was diluted with water, neutralized with sodium carbonate, and extracted with ether. The ethereal extract was dried over magnesium sulfate and filtered. The filtrate was concentrated by evaporation under reduced pressure to obtain a viscous oil. This oil was partially purified by column chromatography to obtain 2.5 g (26 percent of theory) of the title compound, a white solid melting at 88°-90° C., and 5.3 g of a mixture of the title compound and 3-amino-2,4,5,6-tetrachloropyridine.

reactant | hydrogen peroxide | 26 mmole, 3.0 g | OO | H2O2
reactant | 3-amino-4,5-dichloropyridine | 49 mmol, 8.0 g | NC=1C=NC=C(C1Cl)Cl | C5H4Cl2N2
reactant | hydrogen peroxide | 23 mmol, 2.6 g | OO | H2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 450 mL | Cl | ClH
solvent | water | O | H2O
product | 3-Amino-2,4,5-trichloropyridine | NC=1C(=NC=C(C1Cl)Cl)Cl | C5H3Cl3N2
